US07662810B2
1-benzyl-azetidine-3-thiol
1-Benzyl-3-acetylthio-azetidine (1 g, 4.518 mmol) prepared in Preparation Example 49 was dissolved in methanol (20 ml), and oxygen was completely removed by passing nitrogen through the mixture. The resulting mixture was cooled to 0° C., 2N sodium hydroxide (2.27 ml, 4.518 mmol) was added thereto slowly, stirred at 0° C. for 30 min, and then 2N—HCl was added thereto to neutralize (pH 7) the mixture. The resulting solution was concentrated under a reduced pressure, and the concentrate was dissolved in ethyl acetate, and washed with a saturated salt solution. The organic layer was dried over magnesium sulfate and concentrated under a reduced pressure to obtain 620 mg (yield: 77%) of the title compound, which was used in the next reaction without any additional purification.

reactant | 1-Benzyl-3-acetylthio-azetidine | 4.518 mmol, 1 g | C(C1=CC=CC=C1)N1CC(C1)SC(C)=O | C12H15NOS
reactant | sodium hydroxide | 4.518 mmol, 2N, 2.27 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 1-benzyl-azetidine-3-thiol | 620 mg, yield: 77% | C(C1=CC=CC=C1)N1CC(C1)S | C10H13NS
